### PR TITLE
Implement variable scopes, declarations and updates

### PR DESCRIPTION
**Pull request by sonmarcho**
This PR implements variable scopes, declarations and updates.
It also implements an induction principle for the interpreter (see `ExprInduction`), which was necessary to update the proofs in `SimplifyEmptyBlocks`.

### CODE REVIEW

File: src/Semantics/EqInterpRefl.dfy [hunk 1]
```diff
@@ -0,0 +1,97 @@
...
+  import opened Utils.Lib.Datatypes
+  import opened EqInterpScopes
+
+  type Expr = Interp.Expr
+
+  lemma InterpBlock_Exprs_EqRefl(es: seq<Expr>, env: Environment, ctx: State, ctx': State)
+    // TODO(SMH): for some reason, using ``Seq_All`` makes some proofs fail. The weird thing is
+    // that I can then prove `Seq_All(SupportsInterp, es)` in an assertion just before the call
+    // to the lemma, but the lemma precondition keeps failing.
+    requires forall e | e in es :: SupportsInterp(e)
```
Comment (cpitclaudel) [inline src/Semantics/EqInterpRefl.dfy:33]: Does it work with `Seq.All`?  If not, can we minimize, since we now have three separate idioms to say `all`?

File: src/Semantics/EqInterpRefl.dfy [hunk 2]
```diff
@@ -0,0 +1,97 @@
...
+    requires EqState(ctx, ctx')
+    ensures EqInterpResultSeqValue(InterpExprs(es, env, ctx), InterpExprs(es, env, ctx'))
+  {
+    reveal GEqCtx();
+    Base.Pes_Satisfied(Base.MState(env, map [], ctx, map [], ctx'), es);
+  }
+
+  // DISCUSS: the proof actually indirectly relies on the fact that ``EqValue`` is reflexive.
+  // But the proof that ``EqValue`` is reflexive (not done) relies, for the closure case, on the fact
+  // that ``InterpExpr`` is reflexive. The termination argument is not trivial, and we may have to
```
Comment (cpitclaudel) [inline src/Semantics/EqInterpRefl.dfy:56]: Do you really mean `reflexive` for `InterpExpr`?

File: src/Semantics/Equiv.dfy [hunk 3]
```diff
@@ -57,7 +57,19 @@ module Bootstrap.Semantics.Equiv {
   predicate GEqState(
     eq_value: (WV,WV) -> bool, ctx: State, ctx': State)
   {
-    GEqCtx(eq_value, ctx.locals, ctx'.locals)
+    // Rk.: at some point I tried a slightly weaker condition on the rollbacks:
```
Comment (cpitclaudel) [inline src/Semantics/Equiv.dfy:60]: If you write `I`, make sure you sign your comments (e.g. `Rk.(SMH): …`)

File: src/Semantics/Equiv.dfy [hunk 4]
```diff
@@ -290,14 +318,15 @@ module Bootstrap.Semantics.Equiv {
     }
   }
 
-  lemma EqInterp_Expr_EqState(e: Exprs.T, env: Environment, ctx: State, ctx': State)
+  // TODO: this should be moved to EqInterp_Refl.dfy, but is needed for the proof that of EqValue_Refl,
```
Comment (cpitclaudel) [inline src/Semantics/Equiv.dfy:321]: `that of`: Grammar issue?

File: src/Semantics/Interp.dfy [hunk 5]
```diff
@@ -50,7 +52,7 @@ module Bootstrap.Semantics.Interp {
   // TODO: rewrite as a shallow predicate applied through ``v.All``?
   predicate method WellFormedEqValue(v: V.T)
   // This predicate gives the constrainst we need to be able to *define* our equivalence relation
-  // over values and actually *use* this relation to prove equivalence properties between expressions.
+  // over values and actually *use* this relati\on to prove equivalence properties between expressions.
```
Comment (cpitclaudel) [inline src/Semantics/Interp.dfy:55]: Typo?

File: src/Semantics/Interp.dfy [hunk 6]
```diff
@@ -91,7 +93,7 @@ module Bootstrap.Semantics.Interp {
   predicate method HasEqValue(v: V.T)
   // Return true if the value supports a decidale equality.
   //
-  // Note that this is a bit subtle for collections: any empty collection supports a decidable
+  // Note that this is a bit subtle for collections: any empt\y collection supports a decidable
```
Comment (cpitclaudel) [inline src/Semantics/Interp.dfy:96]: Typo?

File: src/Semantics/Interp.dfy [hunk 7]
```diff
@@ -140,6 +142,10 @@ module Bootstrap.Semantics.Interp {
   // The type of well-formed values with a decidable equality
   type EqWV = v: V.T | WellFormedValue(v) && HasEqValue(v) witness V.Bool(false)
 
+  // DISCUSS: If we don't use this, sometimes Z3 fails to see that `V.Unit` is well-formed. It seems
+  // to happen when we use nested subset types, for instance: `Success(Return(V.Unit, ctx))`.
+  const Unit: Value := V.Unit
```
Comment (cpitclaudel) [inline src/Semantics/Interp.dfy:147]: Let's minimize and log an issue.

File: src/Semantics/Interp.dfy [hunk 8]
```diff
@@ -222,6 +229,10 @@ module Bootstrap.Semantics.Interp {
     InterpExpr(e, env, ctx)
   }
 
+  function method VarsToNames(vars: seq<Exprs.Var>): seq<string> {
```
Comment (cpitclaudel) [inline src/Semantics/Interp.dfy:232]: Rename to TypedVars

File: src/Semantics/Interp.dfy [hunk 9]
```diff
@@ -231,14 +242,34 @@ module Bootstrap.Semantics.Interp {
...
+        match (op, v0) {
+          case (And, Bool(false)) => Success(Return(V.Bool(false), ctx0))
+          case (Or,  Bool(true))  => Success(Return(V.Bool(true), ctx0))
+          case (Imp, Bool(false)) => Success(Return(V.Bool(true), ctx0))
+          case (_,   Bool(b)) =>
+            assert op in {Exprs.And, Exprs.Or, Exprs.Imp};
+            var Return(v1, ctx1) :- InterpExpr(e1, env, ctx0);
+            :- NeedType(e1, v1, Type.Bool);
+            Success(Return(v1, ctx1))
+        }
```
Comment (cpitclaudel) [inline src/Semantics/Interp.dfy:271]: I would like to undertand why this goes wrong before we make the interpreter *more* monolithic; can we maybe add fuel in the right places?

File: src/Semantics/Interp.dfy [hunk 10]
```diff
@@ -254,13 +285,69 @@ module Bootstrap.Semantics.Interp {
...
+        // - Execute the body
+        var Return(v, ctx5) :- InterpExpr(body, env, ctx4);
+        // - End the scope
+        var ctx6 := EndScope(ctx, ctx5);
+        // Return
+        Success(Return(v, ctx6))
+
+      case VarDecl(vdecls, ovals) =>
+        var vars := VarsToNames(vdecls);
+        // Evaluate the rhs, if there is
```
Comment (cpitclaudel) [inline src/Semantics/Interp.dfy:310]:
```suggestion
        // Evaluate the rhs, if there is one
```

File: src/Semantics/Interp.dfy [hunk 11]
```diff
@@ -254,13 +285,69 @@ module Bootstrap.Semantics.Interp {
...
+          var ctx := SaveToRollback(ctx, vars);
+          // Continue
+          Success(Return(Unit, ctx))
+
+      case Update(vars, vals) =>
+        var Return(vals, ctx) :- InterpExprs(vals, env, ctx);
+        // DISCUSS: we need to check that the variables have been declared, but there is actually
+        // no way to do that for now (a variable declared but not initialized doesn't appear in the
+        // environment - a variable declaration may only update the rollback context). But is not
+        // checking that variables have been declared really a problem?
```
Comment (cpitclaudel) [inline src/Semantics/Interp.dfy:330]: I think it is a problem: accepting programs with undeclared variables means that we won't catch passes that fail to declare their variables.

Of course it's not an issue if we separately check that, but if we make this an invariant of the expr type then local transformations become complicated.

File: src/Semantics/Interp.dfy [hunk 12]
```diff
@@ -307,14 +394,21 @@ module Bootstrap.Semantics.Interp {
       MapOfPairs(pairs[..lastidx])[pairs[lastidx].0 := pairs[lastidx].1]
   }
 
+  // DISCUSS: using this function *inside* the interpreter is a bad idea, because then it is mutually
+  // recursive with all the other ``Interp...`` functions, and unfolding it requires fuel, which means
+  // Z3 often doesn't see the call to ``InterpExpr`` inside, making some proofs require more work than
+  // needed (for instance by forcing the user to introduce a call to ``InterpExprWithType`` in the
+  // context to allow the unfolding). For this reason, whenever we need to use ``InterpExprWithType``
+  // inside the interpreter definitions, we inline its body.
+  // We still keep this definition because it provides a convenient utility for the rest of the project.
```
Comment (cpitclaudel) [inline src/Semantics/Interp.dfy:403]: Could we just increase this function's fuel?

File: src/Semantics/Interp.dfy [hunk 13]
```diff
@@ -878,27 +1026,94 @@ module Bootstrap.Semantics.Interp {
...
     else
       // Evaluate the first expression
-      var Return(val, ctx) :- InterpExprWithType(es[0], Types.Unit, env, ctx);
+      var Return(val, ctx) :- InterpExpr(es[0], env, ctx);
+      :- NeedType(es[0], val, Types.Unit);
       // Evaluate the remaining expressions
       InterpBlock_Exprs(es[1..], env, ctx)
   }
 
+  // TODO: maybe it doesn't make sense anymore for this function to be opaque?
```
Comment (cpitclaudel) [inline src/Semantics/Interp.dfy:1035]: I suggest signing your TODOs as well

File: src/Semantics/Interp.dfy (hunk 9 above)
Comment (cpitclaudel) [reply src/Semantics/Interp.dfy:271]: In particular, every lemma about this function is going to have a lot more reasoning to do, since its body is so large.  I don't think its sustainable to inline everything.

File: src/Semantics/Interp.dfy [hunk 14]
```diff
@@ -878,27 +1026,94 @@ module Bootstrap.Semantics.Interp {
...
-  function method InterpBind(e: Expr, env: Environment, ctx: State, vars: seq<string>, vals: seq<Value>, body: Expr)
-    : InterpResult<Value>
-    requires body < e
-    requires |vars| == |vals|
-    decreases env.fuel, e, 0
+  function method {:opaque} InterpExprs_Block(es: seq<Expr>, env: Environment, ctx: State)
+    : (r: InterpResult<Value>)
+    // Alternative definition for ``InterpBlock_Exprs`` based on ``InterpExprs``, and which we use
+    // for reasoning purposes. When it fails, it doesn't return the same error as ``InterpBlock_Exprs``,
+    // but this is often not an issue and allows to factorize the proofs.
```
Comment (cpitclaudel) [inline src/Semantics/Interp.dfy:1052]:
```suggestion
    // but this is often not an issue and allows us to factorize the proofs.
```

**Review by cpitclaudel — CHANGES_REQUESTED** [review]
Great PR.  Let's start by addressing the comments, then let's clean up the history and merge.

File: src/AST/Predicates.dfy [hunk 15]
```diff
@@ -100,6 +100,10 @@ abstract module Base {
         case Bind(vars, vals, body) =>
           && Seq.All((e requires e in vals => All_Expr(e, P)), vals)
           && All_Expr(body, P)
+        case VarDecl(vdecls, ovals) =>
```
[the remark this answers is not in the document]
Comment (sonmarcho) [reply src/AST/Predicates.dfy:103]: It stands for "optional values" (I would have used `vals` if it doesn't clash with another attribute, of course)

File: src/AST/Predicates.dfy [hunk 16]
```diff
@@ -100,6 +100,10 @@ abstract module Base {
...
+          && ovals.Some? ==> Seq.All((e requires e in ovals.value => All_Expr(e, P)), ovals.value)
+        case Update(vars, vals) =>
```
[the remark this answers is not in the document]
Comment (sonmarcho) [reply src/AST/Predicates.dfy:105]: I can easily update to `Assign`. Should I?

File: src/AST/Syntax.dfy [hunk 17]
```diff
@@ -242,13 +243,31 @@ module Exprs {
...
+    | Bind(bvars: seq<Var>, bvals: seq<Expr>, bbody: Expr)
+    | VarDecl(vdecls: seq<Var>, ovals: OptExprs)
+    // DISCUSS: `ovals` may make `VarDecl` slightly redundant with `Update` (i.e., we
+    // can always decompose `VarDecl` with initialization expressions as `VarDecl` followed
+    // by `Update`). It is however useful for pretty printing purposes, and in the definition
+    // of ``Pure``: a variable declaration is pure, while an update isn't. This is useful
+    // because we desugar let-bindings to a scope containing an initialized variable declaration.
+    // We could make ``Pure1`` pattern match on `VarDecl` followed by `Update` operating on the
+    // same variables, but then we couldn't use the `Predicates.Deep.All_Expr` function to lift
+    // this definition.
```
[the remark this answers is not in the document]
Comment (sonmarcho) [reply src/AST/Syntax.dfy:269]: At the time I wrote this comment, I had removed the `Bind` construct from the AST (before putting it back later).
Following the discussion we had this morning about using let-bindings to make the proofs simpler, then converting them to scope + vardecl later in the compilation process: this comment is even less relevant now.
I didn't have much problems with the fact that this duplicates a bit `Update` so far (the additional work is limited), but today I see no problem in removing the optional initialization values from `VarDecl`.

File: src/AST/Syntax.dfy [hunk 18]
```diff
@@ -268,6 +287,17 @@ module Exprs {
             Seq.MaxF(var f := (e: Expr) requires e in vals => e.Depth(); f, vals, 0),
             body.Depth()
           )
+        case VarDecl(vdecls, ovals) =>
+          match ovals {
+            case Some(vals) =>
+              var f := (e: Expr) requires e in ovals.value =>
+                assert e < ovals;
```
[the remark this answers is not in the document]
Comment (sonmarcho) [reply src/AST/Syntax.dfy:294]: This is a remnant from when I was debugging the problems with `OptExprs`: I removed it

File: src/AST/Syntax.dfy [hunk 19]
```diff
@@ -283,11 +313,88 @@ module Exprs {
...
+          assert body == es[0];
+        case If(cond, thn, els) =>
+          assert es[0] == cond;
+          assert es[1] == thn;
+          assert es[2] == els;
+        case Bind(_, bvals, bbody) =>
+          Exprs_Size_Append(bvals, [bbody]);
+          Exprs_Size_Index(es, |es| - 1);
+        case _ =>
+    }
```
[the remark this answers is not in the document]
Comment (sonmarcho) [reply src/AST/Syntax.dfy:393]: I rewrote `Size` recursively

File: src/AST/Syntax.dfy [hunk 20]
```diff
@@ -242,13 +243,31 @@ module Exprs {
 /// caller's context. (In most cases, though, variables passed into an ``Abs``
 /// are not mutated at all, because dafny lambdas are pure).
 
+  datatype Var = Variable(name: string, ty: Types.Type)
```
[the remark this answers is not in the document]
Comment (sonmarcho) [reply src/AST/Syntax.dfy:246]: I renamed it

File: src/AST/Translator.dfy [hunk 21]
```diff
@@ -182,6 +182,12 @@ module Bootstrap.AST.Translator {
     (map k | k in LazyBinopMap  :: DE.Lazy(LazyBinopMap[k])) +
     (map k | k in EagerBinopMap :: DE.Eager(DE.BinaryOp(EagerBinopMap[k])))
 
+  // Wo we desugar binds to variable declarations?
+  const bindToVarDecl: bool := false
```
[the remark this answers is not in the document]
Comment (sonmarcho) [reply src/AST/Translator.dfy:186]: Yes, I think we should do that: working on it

File: src/Semantics/EqInterpRefl.dfy [hunk 22]
```diff
@@ -0,0 +1,97 @@
+include "../Interop/CSharpDafnyASTModel.dfy"
```
[the remark this answers is not in the document]
Comment (sonmarcho) [reply src/Semantics/EqInterpRefl.dfy:1]: "eq" actually stands for "equivalence" here (but `EqInterp` is not symmetric...).
I'm in favour of renaming `EqInterp`, but not sure about a proper name. `PreservesInterp` seems appropriate, though a bit long?

File: src/Semantics/EqInterpRefl.dfy (hunk 1 above)
Comment (sonmarcho) [reply src/Semantics/EqInterpRefl.dfy:33]: I tried using `Seq.All` at some point, but it led to several failures. I will minimize

File: src/Semantics/EqInterpRefl.dfy (hunk 2 above)
Comment (sonmarcho) [reply src/Semantics/EqInterpRefl.dfy:56]: I meant `EqInterp`

File: src/Semantics/Interp.dfy (hunk 9 above)
Comment (sonmarcho) [reply src/Semantics/Interp.dfy:271]: Let's discuss that.
The main issue is that we have to *remember* that in this case there are several levels of recursive calls, otherwise we often have proof obligations which fail and need to debug what is happening (which is expensive). Of course, once the issue is identified (it is a problem of fuel) there are several solutions: we can add the proper recursive calls in the proof, and we can also increase the fuel. This doesn't change the core issue.
About increasing the fuel (generally speaking): I tend not to do that, because when I do it in F* it quickly makes the context explode. Maybe the encoding in Dafny is different, but I prefer to be cautious (we can discuss this).

File: src/Semantics/Interp.dfy (hunk 11 above)
Comment (sonmarcho) [reply src/Semantics/Interp.dfy:330]: Let's discuss that

File: src/AST/Syntax.dfy [hunk 23]
```diff
@@ -242,13 +243,31 @@ module Exprs {
...
+
+  // DISCUSS: if we use `Option<seq<Expr>>` in the `Expr.VarDecl` variant instead of introducing
+  // this auxiliary datatype, Dafny fails to prove termination of simple functions like ``Depth``.
+  datatype OptExprs =
+    | Some(value: seq<Expr>)
+    | None
```
[the remark this answers is not in the document]
Comment (sonmarcho) [reply src/AST/Syntax.dfy:252]: I posted the following issue: https://github.com/dafny-lang/dafny/issues/2555

File: src/AST/Syntax.dfy [hunk 24]
```diff
@@ -283,11 +313,88 @@ module Exprs {
...
+          assert es[1] == thn;
+          assert es[2] == els;
+        case Bind(_, bvals, bbody) =>
+          Exprs_Size_Append(bvals, [bbody]);
+          Exprs_Size_Index(es, |es| - 1);
+        case _ =>
+    }
   }
 
+  const Exprs_Size := Expr.Exprs_Size
```
[the remark this answers is not in the document]
Comment (sonmarcho) [reply src/AST/Syntax.dfy:382]: I didn't have any problems with this one. But if you think it might be dangerous, I can remove this `const` binding

File: src/AST/Syntax.dfy (hunk 17 above)
[the remark this answers is not in the document]
Comment (cpitclaudel) [reply src/AST/Syntax.dfy:212]: Note from chat: can't always decompose (`var x := x + 1`)

File: src/Semantics/EqInterpRefl.dfy (hunk 22 above)
[the remark this answers is not in the document]
Comment (cpitclaudel) [reply src/Semantics/EqInterpRefl.dfy:1]: Let's keep EqInterp for now and find a better name based on what's done in logical relations

File: src/Semantics/Interp.dfy (hunk 9 above)
Comment (cpitclaudel) [reply src/Semantics/Interp.dfy:270]: Let's do this later.  We could try increasing the fuel and see if that allows us to make things less monolithic.

Comment (cpitclaudel) [reply src/Semantics/Interp.dfy:270]: Let's discuss that with @RustanLeino

File: src/Semantics/Interp.dfy (hunk 11 above)
Comment (cpitclaudel) [reply src/Semantics/Interp.dfy:329]: Let's table this for later; can you create an issue?
